US05955548
Synthesis of 3-[3,5-bis(trifluoromethyl)phenylamino]-2-cyano-3-(3-methylbutylamino)acrylic acid tert-butyl ester
To a solution of 2-{N-[3,5-bis(trifluoromethyl)phenyl]thiocarbamoyl}cyanoacetic acid tert-butylester (1.12 g, 2.7 mmol, prepared from cyanoacetic acid tert-butyl ester and 3,5-bis(trifluoromethyl)phenylisothiocyanate) in DCM (15 mL) 3-methylbutylamine (1.0 mL, 8.60 mmol), magnesium sulfate (0.5 g) and mercury(II) oxide (2.0 g) were added. The resulting mixture was stirred at room temperature for 14 h, diluted with DCM (30 mL), filtered over Celite, washed with ice-cold diluted hydrochloric acid, with brine (2×20 mL), dried (magnesium sulfate) and concentrated. The residue was crystallized from heptane. 0.29 g (23%) of the title compound was obtained as colourless crystals, mp. 128-129° C. From the mother liquor additional 0.25 g (20%) of product were obtained. 1H NMR (400 MHz, DMSO-d6): δ=0.82 (d, J=7 Hz, 6H), 1.41 (s, 9H), 1.43 (q, J=7 Hz, 2H), 1.57 (nonett, J=7 Hz, 1H), 3.18 (q, br, J=7 Hz, 2H), 7.63 (s, 2H), 7.70 (s, 1H), 8.91 (s, br, 1H), 9.52 (s, 1H); 13C NMR (100 MHz, DMSO-d6): δ=21.96, 24.95, 28.02, 37.50, 41.84, 61.55, 79.66, 115.53, 118.67, 119.87, 123.05 (q, J=282 Hz), 130.44 (q, J=33 Hz), 142,11, 160.46, 167.93. Anal. Calcd. for C21H25F6N3O2 (465.44): C, 54.19; H, 5.41; N, 9.03. Found: C, 54.27; H, 5.57; N, 8.84.

reactant | 2-{N-[3,5-bis(trifluoromethyl)phenyl]thiocarbamoyl}cyanoacetic acid tert-butylester | 2.7 mmol, 1.12 g | C(C)(C)(C)OC(C(C(NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=S)C#N)=O | C16H14F6N2O2S
reactant | magnesium sulfate | 0.5 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | mercury(II) oxide | 2.0 g | [Hg]=O
solvent | DCM | 8.60 mmol, 15 mL | C(Cl)Cl | CH2Cl2
product | 3-[3,5-bis(trifluoromethyl)phenylamino]-2-cyano-3-(3-methylbutylamino)acrylic acid tert-butyl ester | 0.29 g, 23% | C(C)(C)(C)OC(C(=C(NCCC(C)C)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C#N)=O | C21H25F6N3O2
